US06825344B2
Diphenylmethyl (4R, 6R, 7R)-3-(1,4-dihydroxybut-1-yl)-7-phenylacetamidoceph-2em-4-carboxylate
Borane-tetrahydrofuran complex (1M in tetrahydrofuran, 1.0 ml, 1.0 mmol) was added to diphenylmethyl (4R, 6R, 7R)-3-(1-hydroxybut-3-en-1-yl)-7-phenylacetamidoceph-2-em-4-carboxylate (S-diastereomer, 100 mg, 0.18 mmol) in tetrahydrofuran (2 ml) at 20° C. After 30 minutes water (1 ml) was added and the pH taken to within the range 7 to 8 with dilute aqueous sodium hydroxide. Hydrogen peroxide (30% in water, 0.15 ml, 1.35 mmol) was then added, and the pH maintained at 7 to 8 for 20 minutes, after which water and ethyl acetate were added. The organic layer was washed with brine, dried (MgSO4), and evaporated to give a residue which was purified by chromatography (50 to 100% ethyl acetate in hexane, silica gel) giving the S-diastereomer of the title compound identical to that obtained above (isomer P1), 35 mg (34%).

reactant | Borane tetrahydrofuran | 1.0 mmol, 1M, 1.0 ml | B.O1CCCC1
reactant | diphenylmethyl (4R, 6R, 7R)-3-(1-hydroxybut-3-en-1-yl)-7-phenylacetamidoceph-2-em-4-carboxylate | 0.18 mmol, 100 mg | OC(CC=C)C1=CS[C@H]2N([C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C32H30N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Hydrogen peroxide | 1.35 mmol, 0.15 ml | OO | H2O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | Diphenylmethyl (4R, 6R, 7R)-3-(1,4-dihydroxybut-1-yl)-7-phenylacetamidoceph-2em-4-carboxylate | OC(CCCO)C1=CS[C@H]2N([C@H]1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C32H32N2O6S
